US08222266B2
Preparation 31: 1-(4-Chloro-butyl)-4-(2-methyl-pyridin-4-yl)-1H-pyrimidin-2-one (Prep31)
To a solution of 4-(2-methyl-pyridin-4-yl)-1H-pyrimidin-2-one (256 mg, 1.37 mmol) in dry DMF (45 ml), 60% NaH (71 mg, 1.78 mmol) was added portionwise under inert atmosphere. After heating the mixture at 100° C. for 1 hour, 1-bromo-4-chloro-butane (305 mg, 1.78 mmol) was added and the mixture was stirred at room temperature for 1.5 hours and heated at 60° C. for 2 hours. Water was added and the mixture extracted with diethyl ether and with ethyl acetate. The organic layers were mixed together, dried (Na2SO4) and evaporated to afford 100 mg of the title compound that was used in the next step without further purification in the next step (27% yield).

reactant | 4-(2-methyl-pyridin-4-yl)-1H-pyrimidin-2-one | 1.37 mmol, 256 mg | CC1=NC=CC(=C1)C1=NC(NC=C1)=O | C10H9N3O
reactant | NaH | 1.78 mmol, 71 mg | [H-].[Na+]
reactant | 1-bromo-4-chloro-butane | 1.78 mmol, 305 mg | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-butyl)-4-(2-methyl-pyridin-4-yl)-1H-pyrimidin-2-one | 100 mg, 27% yield | ClCCCCN1C(N=C(C=C1)C1=CC(=NC=C1)C)=O | C14H16ClN3O
